US08791107B2
PREPARATION x67: (R)-methyl 4-(2-chloro-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-5(6H)-yl)butanoate
The title compound was prepared in a manner similar to PREPARATION x63 using (R)-2-chloro-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine (PREPARATION x2, 250 mg, 1.103 mmol), methyl 4-oxobutanoate (128 mg, 1.103 mmol), titanium(IV) chloride in CH2Cl2 (1M, 1.654 mL, 1.654 mmol) and sodium triacetoxyhydroborate (514 mg, 2.427 mmol) in CH2Cl2 (8 mL) (164 mg, 46%). ESI-MS m/z [M+H]+ calc'd for C14H19ClN4O3, 327.12. found 327.2.

reactant | (R)-2-chloro-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine | 1.103 mmol, 250 mg | ClC1=NC=2N3[C@H](CNC2C=N1)COCC3 | C9H11ClN4O
reactant | methyl 4-oxobutanoate | 1.103 mmol, 128 mg | O=CCCC(=O)OC | C5H8O3
solvent | sodium | [Na] | Na
solvent | CH2Cl2 | 8 mL, 164 mg | C(Cl)Cl | CH2Cl2
catalyst | titanium(IV) chloride | [Ti](Cl)(Cl)(Cl)Cl
solvent | CH2Cl2 | 1.654 mmol, 1M, 1.654 mL | C(Cl)Cl | CH2Cl2
product | (R)-methyl 4-(2-chloro-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-5(6H)-yl)butanoate | ClC1=NC=2N3[C@H](CN(C2C=N1)CCCC(=O)OC)COCC3 | C14H19ClN4O3
